US08420629B2
Step 2. 1-(cyclopropylsulfonyl)-3-[(triethylsilyl)oxy]azetidine
To a solution of 1-(cyclopropylsulfonyl)azetidin-3-ol (1.04 g, 5.87 mmol) and triethylamine (3.11 mL, 22.3 mmol) in tetrahydrofuran (20 mL) was added 4-dimethylaminopyridine (0.090 g, 0.73 mmol) followed by chlorotriethylsilane (1.00 M in THF, 8.0 mL, 8.0 mmol). The reaction was stirred at room temperature for 16 hours. To the reaction was added saturated sodium bicarbonate solution and the product was extracted with a 1:1 mix of ethyl acetate:hexanes three times. The combined organic extracts were washed with dilute HCl and brine, then dried over sodium sulfate, decanted and concentrated. Flash column chromatography, eluting with a gradient of 0-50% ethyl acetate in hexanes afforded desired product (1.0 g, 58%).

reactant | 1-(cyclopropylsulfonyl)azetidin-3-ol | 5.87 mmol, 1.04 g | C1(CC1)S(=O)(=O)N1CC(C1)O | C6H11NO3S
reactant | triethylamine | 22.3 mmol, 3.11 mL | C(C)N(CC)CC | C6H15N
reactant | chlorotriethylsilane | 8.0 mmol, 1.00 M, 8.0 mL | Cl[Si](CC)(CC)CC | C6H15ClSi
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.73 mmol, 0.090 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 1-(cyclopropylsulfonyl)-3-[(triethylsilyl)oxy]azetidine | 1.0 g, 58% | C1(CC1)S(=O)(=O)N1CC(C1)O[Si](CC)(CC)CC | C12H25NO3SSi
